US07829580B2
To a solution of (E)-3-{[1-(t-butoxycarbonyl)indol-3-yl]methylidene}-1-[2-cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]piperidin-4-ol (1.58 g) in toluene (32 ml) were added thioacetic acid (0.45 ml) and N,N-dimethylformamide dineopentyl acetal (1.75 ml) under ice-cooling, and the resulting mixture was stirred at room temperature for 1 hour. After stirring, to the reaction mixture was added saturated aqueous sodium hydrogencarbonate solution, and the resulting mixture was extracted with ethyl acetate. The extract was washed with saturated aqueous sodium chloride solution, and the organic layer was dried over anhydrous sodium sulfate. The solvent was evaporated in vacuo, and the residue was purified by chromatography on a silica gel column using a mixed solvent of ethyl acetate and hexane (1:9) as the eluent to afford (E)-4-(acetylsulfanyl)-3-{[1-(t-butoxycarbonyl)indol-3-yl]methylidene}-1-[2-cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]piperidine (0.66 g, yield: 38%) as a pale yellow amorphous solid.

reactant | (E)-3-{[1-(t-butoxycarbonyl)indol-3-yl]methylidene}-1-[2-cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]piperidin-4-ol | 1.58 g | C(C)(C)(C)OC(=O)N1C=C(C2=CC=CC=C12)\C=C\1/CN(CCC1O)C(C(=O)C1CC1)C1=C(C=CC=C1)F | C30H33FN2O4
reactant | thioacetic acid | 0.45 ml | C(C)(=S)O | C2H4OS
reactant | N,N-dimethylformamide dineopentyl acetal | 1.75 ml | C(C(C)(C)C)OC(N(C)C)OCC(C)(C)C | C13H29NO2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | toluene | 32 ml | C1(=CC=CC=C1)C | C7H8
product | (E)-4-(acetylsulfanyl)-3-{[1-(t-butoxycarbonyl)indol-3-yl]methylidene}-1-[2-cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]piperidine | 0.66 g, yield: 38% | C(C)(=O)SC1/C(/CN(CC1)C(C(=O)C1CC1)C1=C(C=CC=C1)F)=C/C1=CN(C2=CC=CC=C12)C(=O)OC(C)(C)C | C32H35FN2O4S
